US08445529B2
2-Aminocarbonylamino-5-bromo-6-methoxyindole-3-carboxamide (Compound No.7-1)
Under ice-cooling, a solution of N-bromosuccinimide (94 mg, 0.53 mmol) in anhydrous N,N-dimethylformamide (1 mL) was added to a solution of 2-aminocarbonylamino-6-methoxyindole-3-carboxamide (Compound No.1-1, 126 mg, 0.51 mmol) in anhydrous N,N-dimethylformamide (1.5 mL) and the mixture was stirred for 1.5 hours. Moreover the whole was stirred for 2 hours at room temperature and stirred for 3 hours at 50° C. After the reaction solution was diluted with water (60 mL) and extracted with ethyl acetate (50 mL), the organic layer was washed with brine (50 mL) and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, the obtained solid was filtered off and washed with a mixed solvent of diethyl ether-chloroform solution (5:1, 24 mL). The solid was dried at 40° C. under reduced pressure to give the title compound (50 mg) as a gray solid (30%).

reactant | N-bromosuccinimide | 0.53 mmol, 94 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-aminocarbonylamino-6-methoxyindole-3-carboxamide | 0.51 mmol, 126 mg | NC(=O)NC=1NC2=CC(=CC=C2C1C(=O)N)OC | C11H12N4O3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | 60 mL | O | H2O
product | 2-Aminocarbonylamino-5-bromo-6-methoxyindole-3-carboxamide | 50 mg, 30% | NC(=O)NC=1NC2=CC(=C(C=C2C1C(=O)N)Br)OC | C11H11BrN4O3
